US07205310B2
1-Ethylaminocyclohexane-1-carboxylic acid methyl ester hydrochloride was prepared by the same methods as 1-methylaminocyclohexane-1-carboxylic acid methyl ester hydrochloride, substituting ethylamine hydrochloride for methylamine hydrochloride, in the first step.

reactant | 1-methylaminocyclohexane-1-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1(CCCCC1)NC
reactant | methylamine hydrochloride | Cl.CN
product | 1-Ethylaminocyclohexane-1-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C1(CCCCC1)NCC | InChI=1S/C10H19NO2.ClH/c1-3-11-10(9(12)13-2)7-5-4-6-8-10;/h11H,3-8H2,1-2H3;1H
